US05658933
3-Methoxypyridine-2-carboxylic acid N-(((1-octyloxy)carbonyl)methyl)amide
2.5 g (13 mmol) of 3-methoxypyridine-2-carboxylic acid hydrochloride (m.p. 170° C. with decomp. (from ethyl acetate)), 5.5 ml (45 mmol) N-ethylmorpholine, 2 g (15 mmol) of 1-hydroxy-(1H)-benzotriazole, 4.7 g (13 mmol) of glycine octyl ester tosylate (prepared from glycine, octanol and p-Tos OH on a water separator using toluene) and 6.3 g (15 mmol) of CMC (cf. Example 146) were stirred for 48 h in 350 ml of anhydrous dichloromethane. Following a working up which was analogous to that in Example 146, the crude product was chromatographed on silica gel using dichloromethane (with the addition of up to 2.5% methanol during the course of this). 3.6 g were obtained of the colorless, oily title compound, 1H NMR (CDCl3): δ=4.26 (d, CH2 -glycine).

reactant | 3-methoxypyridine-2-carboxylic acid hydrochloride | 13 mmol, 2.5 g | Cl.COC=1C(=NC=CC1)C(=O)O
reactant | N-ethylmorpholine | 45 mmol, 5.5 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxy-(1H)-benzotriazole | 15 mmol, 2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | glycine octyl ester tosylate | 13 mmol, 4.7 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(CCCCCCC)OC(CN)=O
reactant | glycine | NCC(=O)O | C2H5NO2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | octanol | C(CCCCCCC)O | C8H18O
product | 3-Methoxypyridine-2-carboxylic acid N-(((1-octyloxy)carbonyl)methyl)amide | C(CCCCCCC)OC(=O)CNC(=O)C1=NC=CC=C1OC | C17H26N2O4
